US07186742B2
5-(2-Bromo-acetyl)-2-chloro-benzoic acid methyl ester
To a solution of 5-acetyl-2-chloro-benzoic acid methyl ester (100 mg, 0.47 mmol) in glacial acetic acid (5 mL) was added bromine (0.05 mL, 0.94 mmol). The mixture was stirred at room temperature for 2 h. Hydrobromic acid-acetic acid (2 drops, 30%) was added and the mixture was stirred for 10 minutes. The mixture was concentrated in vacuo to afford the title compound (140 mg).

reactant | 5-acetyl-2-chloro-benzoic acid methyl ester | 0.47 mmol, 100 mg | COC(C1=C(C=CC(=C1)C(C)=O)Cl)=O | C10H9ClO3
reactant | bromine | 0.94 mmol, 0.05 mL | BrBr | Br2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
catalyst | Hydrobromic acid acetic acid | 2 drops | Br.C(C)(=O)O
product | 5-(2-Bromo-acetyl)-2-chloro-benzoic acid methyl ester | 140 mg | COC(C1=C(C=CC(=C1)C(CBr)=O)Cl)=O | C10H8BrClO3
